US09447074B2
7-(3-{[(4-ethyl-2-pyridinyl)methyl]oxy}-6-methyl-2-pyridinyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
To a stirred solution of 1,1-dimethylethyl 7-(3-{[(4-ethyl-2-pyridinyl)methyl]oxy}-6-methyl-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate, (4.3 g) in dioxane (30 ml) was passed through HCl (gas) for 30 min at 20° C. After completion of reaction by TLC, the solvent was removed in vacuo. The solid obtained was washed with acetone and dissolved in water. This was neutralised with sodium bicarbonate, extracted with DCM and concentrated in vacuo to give a crude product. This was purified through silica using 6% methanol in DCM. Appropriate fractions were combined and concentrated in vacuo to give a product. This was triturated in diethyl ether to yield the title compound, 1.5 g.

reactant | 1,1-dimethylethyl 7-(3-{[(4-ethyl-2-pyridinyl)methyl]oxy}-6-methyl-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 4.3 g | C(C)C1=CC(=NC=C1)COC=1C(=NC(=CC1)C)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C29H35N3O3
reactant | HCl | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 7-(3-{[(4-ethyl-2-pyridinyl)methyl]oxy}-6-methyl-2-pyridinyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)C1=CC(=NC=C1)COC=1C(=NC(=CC1)C)C1=CC2=C(CCNCC2)C=C1 | C24H27N3O
